US04820727
Step (1) Preparation of N-[[6-Methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine, 1,1-Dimethylethyl Ester
1-Hydroxybenzotriazole (4.27 g, 1.5 eq) and 1-(3-dimethylaminopropyl)-3-ethoxycarbodiimide hydrochloride (4.84 g, 1.2 eq), were added to a stirred solution of 6-methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)naphthoic acid (7.75 g, 21.0 mmol, prepared by the process of Example 11, Step 3) in anhydrous dimethylformamide (135 mL) under a dry nitrogen atmosphere at room temperature. After 11/4 hours, glycine, t-butyl ester hydrochloride (7.06 g, 2.0 eq) and anhydrous triethylamine (9.68 mL, 3.3 eq) were added. After another 2 hours, the reaction mixture was diluted with water (1.5 L) and extracted with ether (4×200 mL). The extracts were combined and the ether was removed. The crude product was flash chromatographed (7:3 petroleum ether:ethyl acetate, silica) to provide the title compound as a white solid (7.39 g, 73%), m.p. 146°-174.5° C.

reactant | 1-Hydroxybenzotriazole | 4.27 g, 1.5 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethoxycarbodiimide hydrochloride | 4.84 g, 1.2 eq | Cl.CN(CCCN=C=NOCC)C
reactant | 6-methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)naphthoic acid | COC=1C(=C2C=CC(=C(C2=CC1)C(=O)O)OCC(F)(F)F)C(F)(F)F | C15H10F6O4
reactant | glycine, t-butyl ester hydrochloride | 7.06 g, 2.0 eq | Cl.NCC(=O)OC(C)(C)C
reactant | triethylamine | 9.68 mL, 3.3 eq | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 135 mL | CN(C=O)C | C3H7NO
solvent | water | 1.5 L | O | H2O
product | N-[[6-Methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine, 1,1-Dimethylethyl Ester | 7.39 g, 73% | COC=1C(=C2C=CC(=C(C2=CC1)C(=O)NCC(=O)OC(C)(C)C)OCC(F)(F)F)C(F)(F)F | C21H21F6NO5
